US06503907B2
To 4.2 g (10 mmol) Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester in 30 ml piperidine, 580 mg (0.5 mmol) tetrakis-(triphenylphosphine)-palladium and 100 mg (0.625 mmol) CuI were added. The solution was evaporated and purged with argon three times, before 1.4 ml (10 mmol) ethynyltrimethylsilane were added. The solution was stirred at RT for 48 h. Additional 0.38 ml (3.3 mmol) ethynyltrimethylsilane were added and the mixture was stirred at 50° C. for 1 h. The solution was concentrated and the residue redissolved in 0.5M HCl and ether. The inorganic phase was extracted with ether, the organic phases were washed with water and dried over Na2SO4. Purification on silica gel with hexane/EtOAc 19:1 yielded 1.7 g (38%) Trifluoro-methanesulfonic acid 1-(4-trimethylsilanylethynyl-phenyl)-1H-indol-5-yl ester as orange oil, MS: 437 (M).

reactant | Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester | 10 mmol, 4.2 g | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9BrF3NO3S
reactant | ethynyltrimethylsilane | 10 mmol, 1.4 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | ethynyltrimethylsilane | 3.3 mmol, 0.38 ml | C(#C)[Si](C)(C)C | C5H10Si
solvent | piperidine | 30 ml | N1CCCCC1 | C5H11N
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.5 mmol, 580 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | CuI | 0.625 mmol, 100 mg | [Cu]I
product | Trifluoro-methanesulfonic acid 1-(4-trimethylsilanylethynyl-phenyl)-1H-indol-5-yl ester | 1.7 g, 38% | C[Si](C)(C)C#CC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C20H18F3NO3SSi
